US06746728B1
To a solution of 30 g of 4-fluorophenylacetic acid and 48.9 g of thionyl chloride in 60 ml of 1,2-dichloroethane was added a catalytic quantity of pyridine, and the solution was then refluxed for 5 hours under an atmosphere of nitrogen. Following removal of the 1,2-dichloroethane, the product was added dropwise to an ice cooled suspension of 48.6 g of aluminum chloride in 200 ml of dichloromethane. Following stirring for 30 minutes, ethylene gas was blown into the reaction vessel, and after a further 5 hours of stirring, dilute hydrochloric acid was added, and following separation of the organic layer, the aqueous layer was extracted with toluene. The toluene extract was combined with the organic layer and washed subsequently with water, a saturated aqueous solution of sodium bicarbonate, water, and a saturated aqueous solution of sodium chloride, and was then dried over anhydrous sodium sulfate and the solvent removed by evaporation, and subsequently purified by distillation (75° C., 2 Torr) to obtain 19.4 g of 6-fluoro-3,4-dihydro-2(1H)-naphthalenone.

reactant | 4-fluorophenylacetic acid | 30 g | FC1=CC=C(C=C1)CC(=O)O | C8H7FO2
reactant | thionyl chloride | 48.9 g | S(=O)(Cl)Cl | Cl2OS
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | 1,2-dichloroethane | 60 ml | ClCCCl | C2H4Cl2
product | 6-fluoro-3,4-dihydro-2(1H)-naphthalenone | 19.4 g | FC=1C=C2CCC(CC2=CC1)=O | C10H9FO
